US08030298B2
15α-Allyl-3-benzyloxy-2-ethoxy-estra-1,3,5(10)-trien-17-one (XXX-(C2-D)-2c)
KH 30% in oil (89.98 mmol) was suspended in THF (50 ml), under N2 atmosphere. 17-Allyl-3-(benzyloxy)-2-ethoxy-estra-1,3,5(10)-trien-17-ol (7.7 g, 17.30 mmol) and 18-Crown-6 (88.25 mmol) were dissolved in THF (200 ml) and added dropwise in 40 min. The mixture was stirred for 3 h at RT. The mixture was carefully poured into IPA via canula. The mixture was poured into aq. sat. NH4Cl (1 l). The water layer was extracted with EtOAc (3×250 ml). The combined organic layers were washed with brine (1×500 ml), dried over Na2SO4 and concentrated in vacuo. Purification via filtration over Silica (eluens heptan to 40% DCM in heptan) provided 4.2 g (9.51 mmol, 55%) of (XXX-(C2-D)-2c).

reactant | 17-Allyl-3-(benzyloxy)-2-ethoxy-estra-1,3,5(10)-trien-17-ol | 17.30 mmol, 7.7 g | C(C=C)C1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C(=CC3[C@H]1CC2)OCC)OCC2=CC=CC=C2)O | C30H38O3
reactant | 18-Crown-6 | 88.25 mmol | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | IPA | CC(C)O | C3H8O
reactant | NH4Cl | 1 l | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 15α-Allyl-3-benzyloxy-2-ethoxy-estra-1,3,5(10)-trien-17-one | C(C=C)[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC=3C=C(C(=CC3[C@H]1CC2)OCC)OCC2=CC=CC=C2)=O | C30H36O3
